US08455475B2
3-(Pyridin-4-yl)-3,9-diazaspiro[5.6]dodecane (AMN-45)
TFA (1.0 ml) was added to a solution of tert-butyl 3-(pyridin-4-yl)-3,9-diazaspiro[5.6]dodecane-9-carboxylate (250 mg, 0.724 mmol) in methylene chloride (3 ml) at 0° C. and the resulting reaction mixture was stirred at RT for 2 h. The solvent was evaporated under reduced pressure and the residue was azeotroped with toluene to give the desired product which was used in the next step without further purification.

reactant | TFA | 1.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 3-(pyridin-4-yl)-3,9-diazaspiro[5.6]dodecane-9-carboxylate | 0.724 mmol, 250 mg | N1=CC=C(C=C1)N1CCC2(CC1)CCN(CCC2)C(=O)OC(C)(C)C | C20H31N3O2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-(Pyridin-4-yl)-3,9-diazaspiro[5.6]dodecane | N1=CC=C(C=C1)N1CCC2(CC1)CCNCCC2 | C15H23N3
